US05446189
To a stirred, ice bath cooled solution of 1.0 g (6.45 mmol) of 4-nitrocatechol and 2 ml of pyridine in 25 ml of methylene chloride and 5 ml of THF under argon was added 3.2 ml (15.5 mmol) of decanoyl chloride in5 ml of THF. The reaction mixture was allowed to warm to room temperature and stirred for 18 hours when it was poured into water and extracted with methylene chloride. The dried extract was concentrated to an oil which waspurified by chromatography on 70 g of silica gel using 5% ethyl acetate-hexane to give 2.9 g (97% yield, mp 45°-47°) of 3,4-bis[(1-oxodecyl)oxy]nitrobenzene.

reactant | 4-nitrocatechol | 6.45 mmol, 1.0 g | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | decanoyl chloride | 15.5 mmol, 3.2 ml | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | water | O | H2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | ml | C1CCOC1 | C4H8O
product | 3,4-bis[(1-oxodecyl)oxy]nitrobenzene | 2.9 g, 97% yield | O=C(CCCCCCCCC)OC=1C=C(C=CC1OC(CCCCCCCCC)=O)[N+](=O)[O-] | C26H41NO6
